US08202858B2
4-{2-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-2-oxo-ethoxy}-3-methyl-benzoic Acid
1M Boron tribromide solution (2.66 ml, 2.66 mmol) was added dropwise to a solution of 4-{2-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-2-oxo-ethoxy}-3-methyl-benzoic acid methyl ester from Example E41.3 (500 mg, 1.33 mmol) in dichloromethane (20 ml) at 0° C. under an inert atmosphere. The mixture was stirred for 20 h at room temperature then cooled down to 0° C. 1M Boron tribromide solution (1.33 ml, 1.33 mmol) was added and the mixture was stirred for 2 h at room temperature. Solvents were re-moved in vacuo and azeotroped with toluene. The residue was purified by flash chromatography on silica gel (eluant; 1% acetic acid:5% methanol:94% chloroform) to yield the title compound (350 mg, 72%).

reactant | Boron tribromide | 2.66 mmol, 1M, 2.66 ml | B(Br)(Br)Br | BBr3
reactant | 4-{2-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-2-oxo-ethoxy}-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OCC(=O)N1CCN(CC1)CCC(C)(C)C)C)=O | C21H32N2O4
reactant | Boron tribromide | 1.33 mmol, 1M, 1.33 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-{2-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-2-oxo-ethoxy}-3-methyl-benzoic Acid | 350 mg, 72% | CC(CCN1CCN(CC1)C(COC1=C(C=C(C(=O)O)C=C1)C)=O)(C)C | C20H30N2O4
